US06653305B2
Ethyl(2-hydroxy-1,1-dimethylethylamino)acetate hydrochloride
63.00 g of tert-butyl(2-hydroxy-1,1-dimethylethylamino)acetate are placed in 500 ml of ethanol. Then, while cooling with an ice bath, about 200 g of hydrogen chloride are introduced over a period of about four hours. The reaction mixture is stirred overnight at ambient temperature. For working up, it is concentrated by evaporation and stirred with toluene. Then the toluene is distilled off. A viscous oil remains, which is reacted further without any additional purification. Rf value: 0.16 (silica gel, ethyl acetate/methanol=9:1); mass spectrum (ESI+): m/z=176 [M+H]+.

reactant | tert-butyl(2-hydroxy-1,1-dimethylethylamino)acetate | 63.00 g | C(C)(C)(C)OC(CNC(CO)(C)C)=O | C10H21NO3
reactant | hydrogen chloride | about 200 g | Cl | ClH
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Ethyl(2-hydroxy-1,1-dimethylethylamino)acetate hydrochloride | Cl.C(C)OC(CNC(CO)(C)C)=O | InChI=1S/C8H17NO3.ClH/c1-4-12-7(11)5-9-8(2,3)6-10;/h9-10H,4-6H2,1-3H3;1H
